US07402684B2
N-(3-{(S)-2-[4-(4-Chloro-phenoxy)-phenoxymethyl]-pyrrolidin-1-yl}-propyl)-acetamide HCl:
3-{(S)-2-[4-(4-Chloro-phenoxy)-phenoxymethyl]-pyrrolidin-1-yl}-propylamine (50 mg, 0.139 mmol) and Diisopropylethyl amine (26.9 mg, 0.208 mmol) were taken into dichloromethane (2 ml). Acetic Anhydride (0.016 mL, 0.166 mmol) was then added to the reaction mixture. The reaction was left at room temperature for 24 h. The mixture was then partitioned between sodium bicarbonate (aq) and dichloromethane. The aqueous layer was washed with dichloromethane (3×). The combined organic layers were washed with brine, dried over sodium sulfate, and concentrated to dryness. The crude compound was purified by flash silica chromatography (40:1 silica ratio, eluted with 5% methanol in dichloromethane, followed by 10% methanol in dichloromethane). The pure product was then taken into 4M HCl in dioxane and left at room temperature for 3 h. The mixture was concentrated to dryness under vacuum to yield the title product (22 mg, 0.05 mmol, 36%); LCMS; m/z 404 (m+1 of free amine); 1H NMR (400 MHz, DMSO-d6) δ 1.8-2.05 (m, 7H), 2.20-2.27 (m, 1H), 3.07-3.18 (m, 3H), 3.43-3.52 (m, 1H), 3.54-3.57 (m, 1H), 4.28-4.38 (m, 2H), 4.88 (s, 3H), 6.93-6.96 (m, 2H), 7.06 (s, 4H), 7.39-7.41 (m, 2H), 8.06 (m, 1H)

reactant | 3-{(S)-2-[4-(4-Chloro-phenoxy)-phenoxymethyl]-pyrrolidin-1-yl}-propylamine | 0.139 mmol, 50 mg | ClC1=CC=C(OC2=CC=C(OC[C@H]3N(CCC3)CCCN)C=C2)C=C1 | C20H25ClN2O2
reactant | Diisopropylethyl amine | 0.208 mmol, 26.9 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Acetic Anhydride | 0.166 mmol, 0.016 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | N-(3-{(S)-2-[4-(4-Chloro-phenoxy)-phenoxymethyl]-pyrrolidin-1-yl}-propyl)-acetamide HCl | 0.05 mmol, 22 mg, 36% | Cl.ClC1=CC=C(OC2=CC=C(OC[C@H]3N(CCC3)CCCNC(C)=O)C=C2)C=C1 | InChI=1S/C22H27ClN2O3.ClH/c1-17(26)24-13-3-15-25-14-2-4-19(25)16-27-20-9-11-22(12-10-20)28-21-7-5-18(23)6-8-21;/h5-12,19H,2-4,13-16H2,1H3,(H,24,26);1H/t19-;/m0./s1
